US05276161
2-(2'-hydroxy-3',5'-di-tert.-butylphenyl)-2H-benzotriazole
Example 1 is repeated, except that an equivalent amount of 2-nitro-2'-hydroxy-3', 5'-di-tert.-butylazobenzene (91% pure) is used instead of 2-nitro-2'-hydroxy-5'-methylazobenzene and a mixture of 40 g of xylene and 60 g of diethylenetriamine instead of 80 g of xylene and 20 g of diethylenetriamine. The hydrogenation is carried out at 50° C. After work up of the hydrogenation solution, the product is crystallized from a mixture of 40 g of xylene and 160 g of methanol. The product (title compound) is isolated in a yield of 90% of theory. Melting point: 152°-154° C.

reactant | 2-nitro-2'-hydroxy-3', 5'-di-tert.-butylazobenzene | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H25N3O3
reactant | diethylenetriamine | 60 g | NCCNCCN | C4H13N3
reactant | diethylenetriamine | 20 g | NCCNCCN | C4H13N3
solvent | xylene | 40 g | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2'-hydroxy-3',5'-di-tert.-butylphenyl)-2H-benzotriazole | yield of 90% | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
